US06410594B1
To a solution of diethyl acetamidomalonate (Aldrich, 1.25 g, 5.7 mmol) in ethanol (10 mL) under nitrogen was added freshly cut sodium metal (0.03 g, 1.4 mmol). The reaction mixture was stirred at room temperature until all sodium has dissolved. The reaction mixture was cooled to −40° C. (dry ice/acetonitrile) and a solution of 4-azidocyclopent-2-enone (0.7 g, 5.7 mmol) in ethanol (5 mL) was added dropwise over a period of 10 min. The reaction mixture was stirred at −40° C. for 30 min and quenched with trifluoroacetic acid (0.1 mL, 1.4 mmol). The solvent was removed in vacuo to furnish a white solid. Purification of the crude by flash column chromatography (60% ether in hexane) gave 1.2 g (63%) of trans-3-azido-4-[(methylcarbonyl-amino)bis(ethoxycarbonyl)methyl]cyclopentanone as a white solid, mp 121-122° C.

reactant | diethyl acetamidomalonate | 5.7 mmol, 1.25 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium | 1.4 mmol, 0.03 g | [Na] | Na
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | 4-azidocyclopent-2-enone | 5.7 mmol, 0.7 g | N(=[N+]=[N-])C1C=CC(C1)=O | C5H5N3O
reactant | trifluoroacetic acid | 1.4 mmol, 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | trans-3-azido-4-[(methylcarbonyl-amino)bis(ethoxycarbonyl)methyl]cyclopentanone | 1.2 g, 63% | N(=[N+]=[N-])[C@@H]1CC(C[C@H]1C(C(=O)OCC)(C(=O)OCC)NC(=O)C)=O | C14H20N4O6
